US08232294B2
Step 4) 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropyl benzoate
To a mixture of 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropanol (730 mg, 4.05 mmol) and benzoic acid (590 mg, 4.86 mmol) in 30 mL of CH2Cl2 was added DMAP (98.8 mg, 0.81 mmol, Shanghai Haiqu chemical Ltd.) and EDCI (1.16 g, 6.08 mmol, Shanghai Haiqu chemical Ltd.) at rt. The reaction mixture was stirred at rt overnight, then concentrated and purified by a silica gel column chromatography (20:1 (v/v) petroleum ether/EtOAc)) to afford the title compound as colorless oil (690 mg, 60%).

reactant | 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropanol | 4.05 mmol, 730 mg | O1C(CCCC1)OCCC1(CC1)O | C10H18O3
reactant | benzoic acid | 4.86 mmol, 590 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDCI | 6.08 mmol, 1.16 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.81 mmol, 98.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropyl benzoate | 690 mg, 60% | C(C1=CC=CC=C1)(=O)OC1(CC1)CCOC1OCCCC1 | C17H22O4
